US06696182B2
After placing 3.5 g of 3,4-diphenylthiophene and 60 ml of tetrahydrofuran in a flask and cooling to −30° C. in an argon atmosphere, 11 ml of a 1.5 mol/l concentration n-butyllithium/n-hexane solution was added dropwise. The mixture was stirred at −30° C. for 2 hours, and then 4.1 g of a zinc chloride/tetramethylethylenediamine complex was added before raising the temperature to room temperature. After stirring for 30 minutes, 3.8 g of 2-bromo-6-(2-pyridyl)pyridine and 0.52 g of a palladium chloride/bistriphenylphosphine complex were added and the mixture was stirred for 2 hours at reflux temperature. After completion of the reaction, the product was cooled to room temperature, purified water was added, the organic layer was extracted, and the concentrate obtained using an evaporator was purified by recrystallization to obtain 4.5 g of 2-(6-(2-pyridyl)-2-pyridyl)-3,4-diphenylthiophene. After placing 3.3 g of the 2-(6-(2-pyridyl)-2-pyridyl)-3,4-diphenylthiophene and 80 ml of tetrahydrofuran in a flask and cooling to −30° C. in an argon atmosphere, 6.2 ml of a 1.5 mol/l concentration n-butyllithium/n-hexane solution was added dropwise. The mixture was stirred at −30° C. for 2 hours, and then 2.4 g of a zinc chloride/tetramethyl-ethylenediamine complex was added before raising the temperature to room temperature. After stirring for 30 minutes, 2.2 g of 2-bromo-6-(2-pyridyl)pyridine and 0.30 g of a palladium chloride/bistriphenylphosphine complex were added and the mixture was stirred for 2 hours at reflux temperature. After completion of the reaction, the product was cooled to room temperature, purified water was added, and the organic layer was extracted. The organic layer was concentrated with an evaporator and purified by column chromatography and recrystallization to obtain 1.1 g of BPPDPT.

reactant | 3,4-diphenylthiophene | 3.5 g | C1(=CC=CC=C1)C1=CSC=C1C1=CC=CC=C1 | C16H12S
reactant | n-butyllithium n-hexane | C(CCC)[Li].CCCCCC
reactant | 2-bromo-6-(2-pyridyl)pyridine | 3.8 g | BrC1=NC(=CC=C1)C1=NC=CC=C1 | C10H7BrN2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-(6-(2-pyridyl)-2-pyridyl)-3,4-diphenylthiophene | 4.5 g | N1=C(C=CC=C1)C1=CC=CC(=N1)C=1SC=C(C1C1=CC=CC=C1)C1=CC=CC=C1 | C26H18N2S
